US08293768B2
Synthesis of 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-N,4-dimethylthiazole-5-carboxamide
Following the procedure as described in Example 32, making variations as required to replace 2-(3-((5-chlorobenzo[b]thiophen-3-yl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid to react with methylamine, the title compound was obtained as a colorless solid in 41% yield: mp 225-227° C.; 1H NMR (300 MHz, CDCl3) δ 7.30-7.25 (m, 2H), 7.07-7.01 (m, 2H), 5.66 (br s, 1H), 4.46 (s, 2H), 4.08 (t, J=9.0 Hz, 2H), 3.45 (t, J=9.0 Hz, 2H), 2.94 (d, J=3.0 Hz, 3H), 2.60 (s, 3H); MS (ES+) m/z 349.2 (M+1).

reactant | 2-(3-((5-chlorobenzo[b]thiophen-3-yl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | ClC1=CC2=C(SC=C2CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C17H14ClN3O3S2
reactant | 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | FC1=CC=C(CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C15H14FN3O3S
reactant | methylamine | CN | CH5N
product | 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-N,4-dimethylthiazole-5-carboxamide | 41% yield | FC1=CC=C(CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)NC)=O)C=C1 | C16H17FN4O2S
